US06887868B2
Preparation of (rac)-2-[(8-bromo-2,3,5,6-tetrahydro[1,4]oxazino-[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione
To a solution of (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione (0.030 g, 0.094 mmol) in DMF (1.0 mL) was added the solution of N-bromosuccinimide (0.018 g, 0.098 mmol). The reaction mixture was stirred at room temperature for 1 hour and water (10.0 mL) was added. The aqueous solution was extracted with EtOAc (3×) and the combined EtOAc solution was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to dryness to give 0.035 g (94%) of light yellow oil as the desired product: 1H NMR (400 MHz, CDCl3) δ 7.82-7.79 (m, 2 H), 7.70-7.63 (m, 2 H), 6.81 (s, 1 H), 6.70 (s, 1 H), 4.34-4.29 (m, 2 H), 3.93-3.81 (m, 2 H), 3.63-3.59 (m, 1 H), 3.27-3.23 (m, 1 H), 3.19-3.15 (m, 1 H), 3.05-3.00 (m, 1 H), 2.98-2.89 (m, 1 H); MS (EI) m/z 399 (M++H), 401 (M++H).

reactant | (rac)-2-(2,3,5,6-tetrahydro[1,4]oxazino[2,3,4-hi]indol-6-ylmethyl)-1H-isoindole-1,3(2H)-dione | 0.094 mmol, 0.030 g | O1CCN2CC(C3=CC=CC1=C23)CN2C(C3=CC=CC=C3C2=O)=O | C19H16N2O3
reactant | N-bromosuccinimide | 0.098 mmol, 0.018 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 10.0 mL | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (rac)-2-[(8-bromo-2,3,5,6-tetrahydro[1,4]oxazino-[2,3,4-hi]indol-6-yl)methyl]-1H-isoindole-1,3(2H)-dione | BrC=1C=C2C(CN3C2=C(C1)OCC3)CN3C(C1=CC=CC=C1C3=O)=O | C19H15BrN2O3
